US04205074
3-Diphenylmethylenequinolizidine:
To a solution of phenyl lithium, which had been prepared by the reaction of 1.23 g. of lithium and 16.80 g. of bromobenzene, in 50 ml. of absolute ether was dropwise added a solution of 120 g. of 3-benzoylquinolizidine in absolute ether. The mixture was refluxed for 30 mins. with stirring. After the excess of phenyl lithium was decomposed with water, the reaction mixture was extracted with ether. The thus obtained etheral layer was washed with water and dried. After removing the solvent by distillation, α,α-diphenyl-quinolizidine-3-methanol showing a melting point of 166° to 167° C. was obtained.

reactant | phenyl lithium | C1(=CC=CC=C1)[Li]
reactant | lithium | [Li] | Li
reactant | bromobenzene | BrC1=CC=CC=C1 | C6H5Br
reactant | 3-benzoylquinolizidine | C(C1=CC=CC=C1)(=O)C1CCC2CCCCN2C1 | C16H21NO
solvent | ether | CCOCC | C4H10O
solvent | water | O | H2O
product | 3-Diphenylmethylenequinolizidine | C1(=CC=CC=C1)C(=C1CCC2CCCCN2C1)C1=CC=CC=C1 | C22H25N
